US04892880
To a solution of 22 g of N'-formylnicotinic acid hydrazide in 150 ml of pyridine are added, in portions, 28 g of phosphorus pentasulfide. During this addition the temperature rises to 65° C. After 5 minutes the mixture is heated to 110° C. and stirred for 2 hours at this temperature. The pyridine is then distilled off in a water jet vacuum. The residue is taken up in chloroform and the solution is extracted with a 5% sodium hydroxide solution and water. The organic phase is dried and the solvent is removed by evaporation, affording 2-(3-pyridyl)-1,3,4-thiadiazole as a pale yellow powder with a melting point of 78°-79° C.

reactant | N'-formylnicotinic acid hydrazide | 22 g | C(=O)NNC(C1=CN=CC=C1)=O | C7H7N3O2
reactant | phosphorus pentasulfide | 28 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 2-(3-pyridyl)-1,3,4-thiadiazole | N1=CC(=CC=C1)C=1SC=NN1 | C7H5N3S
